*****************************************************************
* NXP BUK9637-100E
*
* Polarity N-Channel
* Ratings 100V/3.600000E-002OHMS/100A
*
* Date Created Fri Sep 28 00:16:59 2012
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT BUK9637-100E DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 6.96333231024124e-09
RLS2 SOURCE 8 17.5007629042867
RLS1 8 7 0.00132630648005262

RDS 7 4 5000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0279808629556966 TC=0.0121766108641514,4.20748220145905E-06
RBD 9 4 0.00132531655149254 TC=0.0121766108641514,4.20748220145905E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 5000000000
CGS 2 6 1.9e-09
RG 1 2 1.53663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -10	2233.28
+ -5	2217.61
+ -4	2208.35
+ -3	2184.19
+ -2	2255.56
+ -1	1611.89
+ -0.5	1260.6
+ -0.2	998.52
+ -0.1	990.263
+ 0	762.04664
+ 0.1	527.13196
+ 0.2	526.6282
+ 0.5	400.46268
+ 1	330.75356
+ 2	246.51416
+ 3	210.33928
+ 4	188.70804
+ 5	173.05748
+ 6	161.3762
+ 8	144.94044
+ 10	133.51248
+ 12	124.7918
+ 15	114.86188
+ 16	111.98648
+ 20	103.14356
+ 30	88.55493
+ 80	63.4462



.MODEL MINT NMOS(Vto=2.15084717874618 Kp=2.122930e+002 Nfs=440000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=5.93117559076982e-13
+ N=1 M=0.6 VJ=0.56 Fc=0.5 Cjo=3.8425752e-10 Tt=2e-08)

.ENDS

