* E:\Dans Design\Dans Xylophone Robot\Dans_Project_Sim\Solenoid 3.asc
L1 N002 N006 4mH Rser=6
V1 N003 0 PULSE(0 8 10m 1u 1u 10m 50m 3) Rser=10
V2 N001 N011 9 Rser=1
R1 N010 N011 4.7k
XU1 N004 0 N005 N010 PC817 Igain=1m
R2 N003 N004 330
R3 0 N011 1meg
R5 N002 N005 1k
C2 N010 N011 3.3µ
XU2 N006 N010 N011 BUK9637-100E
D1 N006 N002 D1n4001rl
R4 N001 N002 0.33
L2 N002 N007 4mH Rser=6
XU3 N007 N010 N011 BUK9637-100E
D2 N007 N002 D1n4001rl
L3 N002 N008 4mH Rser=6
XU4 N008 N010 N011 BUK9637-100E
D3 N008 N002 D1n4001rl
L4 N002 N009 4mH Rser=6
XU5 N009 N010 N011 BUK9637-100E
D4 N009 N002 D1n4001rl
.model D D
.lib C:\PROGRA~2\LTC\LTSPIC~1\lib\cmp\standard.dio
.tran 0 0.15 0 1u
.inc BUK9637-100E.lib
.inc 1N4001RL.LIB
.lib D:\Dans Design\Dans Xylophone Robot\Dans_Project_Sim\BUK9637-100E.lib
.lib PC817.sub
.backanno
.end
